US06534495B1
To a stirred solution of 11.64 g of Boc-D-Cha-OH in 100 mL of dichloromethane at 0° C. was added 6.36 g of HOBt and 9.72 g of DCC. After 20 minutes a solution of 10.35 g of H-Pro-OBzl.HCl in 40 mL of dichloromethane adjusted with N,N-diisopropyl ethylamine to pH 8 was added. After 16 h the reaction mixture was filtered and the filtrate was washed successively with water, 0.1 N hydrochloric acid, water, aqueous 5% sodium hydrogencarbonate and brine. All aqueous washes were extracted twice with ethyl acetate, all organic extracts combined, dried over sodium sulfate and concentrated. To the residue was added a mixture of ethyl acetate/heptanes=1/1 (v/v), the resulting suspension filtered and the filtrate purified by chromatography on silica gel (eluent: ethyl acetate/heptanes=1/1 v/v) to yield 19.34 g of Boc-D-Cha-Pro-OBzl.

reactant | Boc-D-Cha-OH | 11.64 g | N([C@H](CC1CCCCC1)C(=O)O)C(=O)OC(C)(C)C | C14H25NO4
reactant | HOBt | 6.36 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 9.72 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | H-Pro-OBzl.HCl | 10.35 g | N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1.Cl
reactant | N,N-diisopropyl ethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | Boc-D-Cha-Pro-OBzl | 19.34 g | N([C@H](CC1CCCCC1)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C26H38N2O5
